US07759337B2
Synthesis of 4-methyl-5-(1-morpholinophthalazin-6-yl)thiophene-2-carboxylic acid
6-Bromo-1-morpholinophthalazine (405 mg, 1377 μmol), 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (524 mg, 2065 μmol), potassium acetate (541 mg, 5507 μmol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (101 mg, 138 μmol) were dissolved in N,N-dimethylformamide (4.6 mL) and placed in the microwave for 10 min at 160° C. The reaction mixture was added to a vial containing methyl 5-bromo-4-methylthiophene-2-carboxylate (388 mg, 1652 μmol), tetrakis(triphenylphosphine)palladium (159 mg, 138 μmol), potassium carbonate-2 M in water (2754 μl, 5507 μmol), and ethanol (4590 μl, 1377 μmol). The vial was placed in the microwave for 10 min at 160° C., cooled, diluted with 75 mL of EtOAc, added to an addition funnel and partitioned with sodium bicarbonate (saturated, aqueous). The organic layer was washed 3× with 50 mL of sodium bicarbonate (saturated, aqueous), and separated. The aqueous layer was acidified to pH 4 with conc. HCl and extracted 3× with 50 mL of chloroform. The combined organic layers were dried over sodium sulfate, and concentrated via rotovap to give a crude product, which was purified by chromatography to obtain the title compound, as the TFA salt. Found MS (ES+): 356(M+H)+.

reactant | 6-Bromo-1-morpholinophthalazine | 1377 μmol, 405 mg | BrC=1C=C2C=NN=C(C2=CC1)N1CCOCC1 | C12H12BrN3O
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 2065 μmol, 524 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 5507 μmol, 541 mg | C(C)(=O)[O-].[K+]
reactant | methyl 5-bromo-4-methylthiophene-2-carboxylate | 1652 μmol, 388 mg | BrC1=C(C=C(S1)C(=O)OC)C | C7H7BrO2S
reactant | potassium carbonate | 2 M | C([O-])([O-])=O.[K+].[K+]
reactant | water | 5507 μmol, 2754 μl | O | H2O
reactant | ethanol | 1377 μmol, 4590 μl | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 4.6 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 138 μmol, 101 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | tetrakis(triphenylphosphine)palladium | 138 μmol, 159 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-methyl-5-(1-morpholinophthalazin-6-yl)thiophene-2-carboxylic acid | CC=1C=C(SC1C=1C=C2C=NN=C(C2=CC1)N1CCOCC1)C(=O)O | C18H17N3O3S
